US04584303
A mixture of 12.45 g of 1-benzyl-4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine and 250 ml of acetic acid is hydrogenated at room temperature and pressure with 1.5 g of 10% palladium-on-charcoal catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off. The acetic acid is flash evaporated, the residue is dissolved in toulene and stirred with 10 g of anhydrous sodium carbonate. The solid is filtered and the filtrate is flash evaporated to obtain 4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine.

reactant | 1-benzyl-4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine | 12.45 g | C(C1=CC=CC=C1)N1CCC(CC1)(N(C(C)=O)OCC1=CC=CC=C1)C(=O)OC | C23H28N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 1.5 g | [Pd] | Pd
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 4-methoxycarbonyl-4-(N-phenylmethoxyacetamido)piperidine | COC(=O)C1(CCNCC1)N(C(C)=O)OCC1=CC=CC=C1 | C16H22N2O4
